US05843983
16(a) (2R,4R)-4-Dimethylcarbamoyloxy-2-{2-[6-methoxy-2-(2-phenylethyl)phenoxy]ethyl}-1-octyloxycarbonylpyrrolidine
670 mg of 6-methoxy-2-(2-phenylethyl)phenol were dissolved in 10 ml of N,N-dimethylacetamide, allowed to react with 360 mg of potassium t-butoxide and 1000 mg of (2S,4R)-2-(2-chloroethyl)-4-dimethylcarbamoyloxy-1-octyloxycarbonylpyrrolidine and extracted in the same manner as described in step (a) of Example 2. The resulting oily substance was purified by silica gel column chromatography, using a 1:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 1500 mg (99% yield) of the title compound as an oily substance.

reactant | 6-methoxy-2-(2-phenylethyl)phenol | 670 mg | COC1=CC=CC(=C1O)CCC1=CC=CC=C1 | C15H16O2
reactant | potassium t-butoxide | 360 mg | CC(C)([O-])C.[K+]
reactant | (2S,4R)-2-(2-chloroethyl)-4-dimethylcarbamoyloxy-1-octyloxycarbonylpyrrolidine | 1000 mg | ClCC[C@H]1N(C[C@@H](C1)OC(N(C)C)=O)C(=O)OCCCCCCCC | C18H33ClN2O4
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | (2R,4R)-4-Dimethylcarbamoyloxy-2-{2-[6-methoxy-2-(2-phenylethyl)phenoxy]ethyl}-1-octyloxycarbonylpyrrolidine | 1500 mg, 99% yield | CN(C(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCCCCCCCC)CCOC1=C(C=CC=C1OC)CCC1=CC=CC=C1)C | C33H48N2O6
